US09388176B2
2-Bromo-N-(4-isopropyl-phenyl)-isonicotinamide
In a manner similar to that described in Preparation 17, 2-bromoisonicotinic acid and 4-isopropylaniline were converted to the title compound

reactant | 2-bromoisonicotinic acid | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | 2-Bromo-N-(4-isopropyl-phenyl)-isonicotinamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)C(C)C)C=CN1 | C15H15BrN2O
